US04056626
A mixture of 214 mg. of potassium salt of 2-acetyl-7-hydroxybenzofuran, 70 mg. of isopropylamine and 0.8 ml. of epichlorohydrin was suspended into 5 ml. of ethanol. After heating the suspension in a sealed tube at 100° C. for 20 hours, the reaction mixture was filtered and then the solvent was evaporated under a reduced pressure. The residue was subjected to thin layer chromatography (solid support: Kieselgel PF254 made by E. Merck, developer: benzene-chloroform-methanol-28 % aqueous ammonia (17:4:3:0.4), eluant: chloroform) for the purification to give 2-acetyl-7-(2-hydroxy-3-isopropylaminopropoxy)benzofuran having a melting point of 115° C.

reactant | potassium | [K] | K
reactant | 2-acetyl-7-hydroxybenzofuran | C(C)(=O)C=1OC2=C(C1)C=CC=C2O | C10H8O3
reactant | isopropylamine | C(C)(C)N | C3H9N
reactant | epichlorohydrin | C(Cl)C1CO1 | C3H5ClO
solvent | ethanol | C(C)O | C2H6O
product | 2-acetyl-7-(2-hydroxy-3-isopropylaminopropoxy)benzofuran | C(C)(=O)C=1OC2=C(C1)C=CC=C2OCC(CNC(C)C)O | C16H21NO4
